US08802713B2
1.20 g of ethyl-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxypyrazole-4-carboxylate was dissolved in 40 mL of N,N-dimethylformamide, 25 g of triethylamine was added, and stirring was carried out at 50° C. for 3 hours while trifluoromethyl trifluorovinyl ether was blown. To this solution, ethyl acetate was added, followed by washing with a saturated aqueous solution of citric acid, and then the organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:4) to obtain 0.73 g of ethyl-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole-4-carboxylate (1H-NMR (CDCL3/TMS δ (ppm) value) δ: 1.36 (3H, t), 2.51 (3H, s), 3.41 (2H, q), 4.34 (2H, q), 6.21 (1H, dt), 7.16 (1H, d), 7.97 (1H, d), 8.38 (1H, d)).

reactant | ethyl-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxypyrazole-4-carboxylate | 1.20 g | C(C)OC(=O)C=1C(=NN(C1)C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)O | C15H14F4N2O3S
reactant | triethylamine | 25 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethyl trifluorovinyl ether | FC(=C(F)F)OC(F)(F)F | C3F6O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | ethyl-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole-4-carboxylate | 0.73 g | C(C)OC(=O)C=1C(=NN(C1)C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OC(C(OC(F)(F)F)F)(F)F | C18H14F10N2O4S
